US07449460B2
Following the procedure of Example 11, a mixture of 110 mg (0.25 mmol) of 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile and 140 mg (0.76 mmol) of 1-methyl-4-piperidin-4-ylpiperazine in 0.8 mL of 1-methyl 2-pyrrolidinone is heated at 105° C. for 28 hours to yield the crude product. Purification by silica gel chromatography (gradient 94:6 methylene chloride/methanol to 84:15:1 methylene chloride/methanol/ammonium hydroxide) gives 100 mg of the 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-methoxy-7-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinoline-3-carbonitrile as a beige solid, mp 235-237° C.

reactant | 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.25 mmol, 110 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C21H15ClFN5OS
reactant | 1-methyl-4-piperidin-4-ylpiperazine | 0.76 mmol, 140 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
solvent | 1-methyl 2-pyrrolidinone | 0.8 mL | CN1C(CCC1)=O | C5H9NO
product | 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-methoxy-7-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinoline-3-carbonitrile | 100 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)N1CCC(CC1)N1CCN(CC1)C)C#N | C31H35ClN8OS
